US04219660
Preparation of 1-acetoxy-4-nitro-2-cyclopentene
To 0.6 Mol of acetic anhydride were added at 25° C. 0.163 Mol 90% HNO3 over 45 minutes. The mixture was stirred for an additional 20 minutes before 0.1 Mol cyclopentadiene was added over a 1 hour period, maintaining the temperature at 25° C. The reaction mixture was stirred for an additional hour before it was poured onto ice water and extracted with methylene chloride. An oily residue (120% weight yield) was obtained. An aliquot was purified via Kugelrohr distillation removing first acetic acid/acetic anhydride followed by the product.

reactant | acetic anhydride | 0.6 Mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | HNO3 | 0.163 Mol | [N+](=O)(O)[O-] | HNO3
reactant | cyclopentadiene | 0.1 Mol | C1=CC=CC1 | C5H6
product | 1-acetoxy-4-nitro-2-cyclopentene | C(C)(=O)OC1C=CC(C1)[N+](=O)[O-] | C7H9NO4
